US06538152B1
To a solution of 2-benzyloxy-5-vinylbenzoic acid (607 mg) in benzene (10 ml) were added thionyl chloride (350 μl) and a catalytic amount of N,N-dimethylformamide, and the mixture was heated under reflux for 1 hour with stirring. After concentration of the reaction mixture under reduced pressure, the residue was dissolved in tetrahydrofuran (5 ml), and an excess amount of 50% aqueous dimethylamine solution was added to the stirred solution under ice-cooling. Water was added to the reaction mixture, and the resulting mixture was extracted with ethyl acetate. The extract was washed with brine and dried over anhydrous magnesium sulfate. After the solvent was removed under reduced pressure, purification of the residue by flash column chromatography on silica gel (eluent:hexane/diethyl ether/dichloromethane=1/2/2) gave 2-benzyloxy-N,N-dimethyl-5-vinylbenzamide (548 mg).

reactant | 2-benzyloxy-5-vinylbenzoic acid | 607 mg | C(C1=CC=CC=C1)OC1=C(C(=O)O)C=C(C=C1)C=C | C16H14O3
reactant | thionyl chloride | 350 μl | S(=O)(Cl)Cl | Cl2OS
reactant | N,N-dimethylformamide | CN(C=O)C | C3H7NO
reactant | dimethylamine | CNC | C2H7N
solvent | benzene | 10 ml | C1=CC=CC=C1 | C6H6
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
solvent | Water | O | H2O
product | 2-benzyloxy-N,N-dimethyl-5-vinylbenzamide | 548 mg | C(C1=CC=CC=C1)OC1=C(C(=O)N(C)C)C=C(C=C1)C=C | C18H19NO2
